US03968116
5-Chloro-3-nitro-2-aminopyridine is reacted with heptafluorobutyric anhydride to obtain 5-chloro-3-nitro-2-(heptafluorobutyramido)pyridine which when hydrogenated yields 6-chloro-1-hydroxy-2-(heptafluoro-n-propyl)-1H-imidazo(4,5-b)-pyridine.

reactant | 5-Chloro-3-nitro-2-aminopyridine | ClC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | heptafluorobutyric anhydride | FC(C(C(C(=O)OC(C(C(C(F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(F)F | C8F14O3
product | 5-chloro-3-nitro-2-(heptafluorobutyramido)pyridine | ClC=1C=C(C(=NC1)NC(C(C(C(F)(F)F)(F)F)(F)F)=O)[N+](=O)[O-] | C9H3ClF7N3O3
